US07696234B2
[2-(S)-(2-(R)-Methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-[4-(pyridin-2-ylmethoxy)-phenyl]-methanone
The title compound is prepared in a manner substantially analogous to Procedure F from 4-(Pyridin-2-ylmethoxy)-benzoic acid methyl ester and 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine. MS (ES+) 380.2

reactant | 4-(Pyridin-2-ylmethoxy)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCC1=NC=CC=C1)=O | C14H13NO3
reactant | 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine | C[C@H]1N(CCC1)C[C@H]1NCCC1 | C10H20N2
product | [2-(S)-(2-(R)-Methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-[4-(pyridin-2-ylmethoxy)-phenyl]-methanone | C[C@H]1N(CCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)OCC1=NC=CC=C1 | C23H29N3O2
